US04846875
Concentrated sulfuric acid (250 ml) was added to a stirred solution of 2-chloro-4-fluorotoluene (50.0 g, 0.346 mole) in ethylene dichloride (250 ml) at 0° C. Potassium nitrate (35.0 g, 0.346 mole) was then added slowly, maintaining the temperature below 10° C. The reaction was monitored by gas chromatography. Upon the disappearance of 2-chloro-4-fluorotoluene, the reaction mixture was poured into ice and extracted with methylene chloride. The dried organic layer was concentrated under reduced pressure to yield 60.0 g of 2-chloro-4-fluoro-5-nitrotoluene. This reaction was repeated several times.

reactant | sulfuric acid | 250 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-chloro-4-fluorotoluene | 0.346 mole, 50.0 g | ClC1=C(C=CC(=C1)F)C | C7H6ClF
reactant | Potassium nitrate | 0.346 mole, 35.0 g | [N+](=O)([O-])[O-].[K+]
solvent | ethylene dichloride | 250 ml | C(CCl)Cl | C2H4Cl2
product | 2-chloro-4-fluoro-5-nitrotoluene | 60.0 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])C | C7H5ClFNO2
